US07713993B2
Synthesis of 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine
Sodium azide (0.15 g) was added to a solution of 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)[1,3,4]oxadiazole (366 mg) in DMSO (10 mL) at room temperature, and the reaction solution was stirred at 70° C. for six hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and a saturated sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with a saturated sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure. Triphenylphosphine (0.33 g) was added to a mixed solution of the resulting residue in THF (10 mL) and water (0.5 mL) at room temperature, and the reaction solution was stirred at 60° C. for three hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. THF and toluene were added to the residue, and the solution was again concentrated under reduced pressure. A solution of the resulting residue in acetic acid (5 mL) was stirred at 150° C. for 1.5 hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the resulting residue, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system), solidified with ethyl acetate and hexane and separated by filtration to obtain 188 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium azide | 0.15 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)[1,3,4]oxadiazole | 366 mg | ClCCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)C1=CC=C(C=C1)F | C24H22ClFN4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine | 188 mg | FC1=CC=C(C=C1)C1=NN=C/2N1CCC\C2=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H22FN5O
